US04125554
70 g of 3-(p-iodophenyl) butanol was combined in solution with 138 g of hydrobromic acid (48%) and 20 g thiourea in 100 ml of water and the thiol product vacuum distilled at 126° and 0.18 mm Hg. A 41% yield of 3-(p-Iodophenyl) butane thiol was confirmed having a refractive index of n25D = 1.6071 and nmr, ir and gc readings commensurate with the structure of the desired product.

reactant | 3-(p-iodophenyl) butanol | 70 g | IC1=CC=C(C=C1)C(CCO)C | C10H13IO
reactant | hydrobromic acid | 138 g | Br | BrH
reactant | thiourea | 20 g | NC(=S)N | CH4N2S
solvent | water | 100 ml | O | H2O
product | 3-(p-Iodophenyl) butane thiol | 41% yield | IC1=CC=C(C=C1)C(CCS)C | C10H13IS
